US05409928
(6) Preparation of 4-benzyl-3-methylbenzyl alcohol
2-(4-benzyl-3-methylbenzyloxy)tetrahydropyran (2.9 g, 0.01 mol) was dissolved in methanol (50 ml). To the obtained solution was added 10% hydrochloric acid (10 ml), and the mixture was stirred at room temperature for 1 hour. After distilling methanol, saturated aqueous sodium chloride solution was added, and the mixture was extracted with ethyl acetate. After washing with saturated aqueous sodium hydrogencarbonate solution, water and saturated aqueous sodium chloride solution, the extract was dried over anhydrous sodium sulfate, and the solvent was distilled away to give the title compound (2.2 g, 0.01 mol).

reactant | 2-(4-benzyl-3-methylbenzyloxy)tetrahydropyran | 0.01 mol, 2.9 g | C(C1=CC=CC=C1)C1=C(C=C(COC2OCCCC2)C=C1)C | C20H24O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 4-benzyl-3-methylbenzyl alcohol | 0.01 mol, 2.2 g | C(C1=CC=CC=C1)C1=C(C=C(CO)C=C1)C | C15H16O
